US05232945
F. (R)-2-[4-(3-Fluorobenzyloxy)benzyl]-3,4-dihydro-6-formyl-2H-benzopyran
To a solution of (R)-3,4-dihydro-6-formyl-2-(4-hydroxybenzyl)-2H-benzopyran (1.8 g, 6.7 mmol) in DMF (10 ml) at 0° C. was added potassium tert-butoxide (0.83 g, 7.4 mmol). After 30 minutes m-fluorobenzyl bromide (0.91 ml), 7.4 mmol) was added and the resulting slurry was warmed to room temperature and stirred for 2 hours. Water was added and the precipitate was collected, washed with water and air dried (2.5 g).

reactant | (R)-3,4-dihydro-6-formyl-2-(4-hydroxybenzyl)-2H-benzopyran | 6.7 mmol, 1.8 g | C(=O)C=1C=CC2=C(CC[C@@H](O2)CC2=CC=C(C=C2)O)C1 | C17H16O3
reactant | potassium tert-butoxide | 7.4 mmol, 0.83 g | CC(C)([O-])C.[K+]
reactant | m-fluorobenzyl bromide | 0.91 ml | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | Water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (R)-2-[4-(3-Fluorobenzyloxy)benzyl]-3,4-dihydro-6-formyl-2H-benzopyran | FC=1C=C(COC2=CC=C(C[C@@H]3OC4=C(CC3)C=C(C=C4)C=O)C=C2)C=CC1 | C24H21FO3
